US05420122
To a solution of 4-nitrobenzyl (2R,5R,6S)-6-[(1R)-1- (4-nitrobenzyloxycarbonyloxy)ethyl]-3,7-dioxo-1-azabicyclo[3.2.0]heptane-2-carboxylate (1.92 g) in dichloromethane (50 ml) were added N,N-diisopropyl-N-ethylamine (0.76 ml) and trifluoromethanesulfonic anhydride (0.73 ml) at -30° C., and the solution was stirred at the same temperature for 30 minutes. To this solution was added (2S, 4S)-2-(2-aminothiazol-4-yl)-4-mercapto-1- (4-nitrobenzyloxycarbonyl)pyrrolidine (1.13 g) in dichloromethane (20 ml) at -30° C. and the solution was stirred at 0° C. for 3 hours. The mixture was washed in turn with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was chromatographed on silica gel (60 g) eluting with a mixture of dichloromethane and acetone (5:1 V/V) to give 4-nitrobenzyl (5R,6S)-3-[(2S,4S)-2-(2-aminothiazol-4-yl) -1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy) ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.85 g).

reactant | 4-nitrobenzyl (2R,5R,6S)-6-[(1R)-1- (4-nitrobenzyloxycarbonyloxy)ethyl]-3,7-dioxo-1-azabicyclo[3.2.0]heptane-2-carboxylate | 1.92 g | [N+](=O)([O-])C1=CC=C(COC(=O)O[C@H](C)[C@@H]2[C@H]3CC([C@@H](N3C2=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C24H21N3O11
reactant | N,N-diisopropyl-N-ethylamine | 0.76 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.73 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (2S, 4S)-2-(2-aminothiazol-4-yl)-4-mercapto-1- (4-nitrobenzyloxycarbonyl)pyrrolidine | 1.13 g | NC=1SC=C(N1)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N4O4S2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl (5R,6S)-3-[(2S,4S)-2-(2-aminothiazol-4-yl) -1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy) ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.85 g | NC=1SC=C(N1)[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C39H35N7O14S2
